US07273877B2
Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate was dissolved in EtOH and treated with 1 M NaOH, as for example 1, step C, to hydrolyse the ester to give 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid as a white solid (99%), used directly in the next step. 1H NMR [(CD3)2SO, 400 MHz] δ 13.30 (v br s, 1H), 11.44 (br s, 1H), 9.75 (br s, 1H), 8.06 (s, 1H), 7.76 (dd, J=10.2, 1.9 Hz, 1H), 7.59 (ddd, J=8.3, 1.9, 0.9 Hz, 1H), 7.32 (t, J=8.4 Hz, 1H), 5.40 (d, J=1.1 Hz, 1H). LCMS (APCI+) calcd for C12H9FIN2O3 375 (MH+), found 375.

reactant | Ethyl 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylate | FC1=C(NC=2C(=CNC(C2)=O)C(=O)OCC)C=CC(=C1)I | C14H12FIN2O3
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 4-(2-fluoro-4-iodoanilino)-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | 99% | FC1=C(NC=2C(=CNC(C2)=O)C(=O)O)C=CC(=C1)I | C12H8FIN2O3
